Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R thigh pain/RLQ pain

 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ PMHx of PCOS, GERD presenting as transfer 
from
OSH with severe RLQ/R medial thigh pain, found to have fever and
leukocytosis.

Patient reports that she was in her usual state of health until
this evening when she developed acute onset stabbing pain in her
R medial thigh. She felt that she was about to fall and husband
had to catch her. Pain spread down leg and into RLQ of abdomen.
At OSH, found to be febrile to 102, tachycardic, and labs 
notable
for leukocytosis. RSV and flu negative. CT abdomen/pelvis and CT
RLE obtained and reportedly unremarkable. Patient started on
cefoxitin/vanc and transferred to ___ for further eval. 

On arrival to ___, patient tearful and c/o severe R medial
thigh, RLE, and R low back pain. Pain comes and goes, ___
severity, stabbing in nature. She notes that about a week ago,
she had a "cold" with productive cough and runny nose. Otherwise
has been well. Also sprained her ankle last week, but has been
walking in supportive shoes without pain. No fevers/chills at
home, no abdominal pain, n/v/d. Tatooes on lower extremities 4
weeks old.  She does report a rash in R groin at site of pain
about a week ago, which resolved with bacitracin cream. 

In the ED, initial vitals were: 
T 99.0 HR 89 BP 97/51 RR 22  97% RA 

Exam notable for 
 Abdomen: diffuse ttp, worse on R side
- Back: Non-tender with palpation of spine, intermittent TTP of
R-sided paraspinal muscles in lumbar region 
- Extremities: RLE with small area of erythema on distal leg,
outline in pen, non-purulent, non-edematous, otherwise RLE
unremarkable, 2+ DPs bilaterally

- Labs notable for 
WBC 19.2, CK 233, AST 47

- Imaging was notable for:  
CT RLE and Abdomen second read without concerning findings 

- Patient was given:
Given vanc/cefoxitin at OSH, started on vanc/zosyn in ED. 
Patient
also received 1L IVF, Tylenol, morphine.

- Vitals on Transfer:
T 102.1 HR 134 BP 117/56 22 95% RA 

Upon arrival to the floor, patient confirms the story above.

 
Past Medical History:
- PCOS
- GERD 
 
Social History:
___
Family History:
Mother - sickle cell disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS:  24 HR Data (last updated ___ @ 1555)
    Temp: 99.5 (Tm 99.5), BP: 119/78, HR: 113, RR: 18, O2 sat:
96%, O2 delivery: RA  

GENERAL:  Somnolent, in moderate pain
HEENT:  PERRLA, EOMI, no scleral icterus
NECK:  no neck stiffness/pain
CARDIAC: tachycardic and regular, normal S1/S2, ___ RUSB flow
murmur
LUNGS:  CTAB, no respiratory distress
ABDOMEN:  soft, nondistended, no HSM, masses. Diffuse ttp in R
flank, RLQ and RUQ. CVAT difficult to assess as patient with
severe R flank tenderness
EXTREMITIES:  RLE erythema/edema/warmth around shin outlined in
marker, with red streaking up to the R medial thigh. No 
crepitus,
drainage, or evidence of skin breakdown. 2+ pulses
NEUROLOGIC:  Movement limited by pain but strength ___. 
Sensation
grossly intact. Gait/Romberg not assessed 

DISCHARGE PHYSICAL EXAM:  
24 HR Data (last updated ___ @ 854)
    Temp: 98.7 (Tm 99.8), BP: 124/71 (103-129/68-86), HR: 86
(72-95), RR: 18 (___), O2 sat: 96% (96-100), O2 delivery: Ra   


GENERAL: In moderate pain, anxious appearing
HEENT:  PERRLA, EOMI, no scleral icterus
NECK:  no neck stiffness/pain
CARDIAC: tachycardic and regular, normal S1/S2, ___ RUSB flow
murmur
LUNGS:  CTAB, no respiratory distress
ABDOMEN:  soft, nondistended, no HSM, masses. Diffuse ttp in R
flank, RLQ and RUQ. CVAT difficult to assess as patient with
severe R flank tenderness
EXTREMITIES:  RLE erythema much smaller in size, outlined in
marker, with red streaking up to the R medial thigh. No 
crepitus,
drainage, or evidence of skin breakdown. 2+ pulses
NEUROLOGIC:  Movement limited by pain but strength ___. 
Sensation
grossly intact. Gait/Romberg not assessed.

 
Pertinent Results:
ADMISSION LABS

___ 03:14AM BLOOD WBC-19.2* RBC-4.43 Hgb-11.5 Hct-34.6 
MCV-78* MCH-26.0 MCHC-33.2 RDW-14.6 RDWSD-41.1 Plt ___
___ 03:14AM BLOOD Neuts-86.4* Lymphs-5.5* Monos-7.3 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-16.58* AbsLymp-1.05* 
AbsMono-1.39* AbsEos-0.01* AbsBaso-0.02
___ 03:14AM BLOOD ___ PTT-28.5 ___
___ 03:14AM BLOOD Glucose-90 UreaN-8 Creat-0.8 Na-139 
K-6.5* Cl-104 HCO3-22 AnGap-13
___ 03:14AM BLOOD ALT-23 AST-47* CK(CPK)-233* AlkPhos-31* 
TotBili-0.8
___ 03:14AM BLOOD Albumin-3.7 Calcium-8.2* Phos-2.6* 
Mg-1.5*
___ 03:21AM BLOOD Lactate-2.4* K-6.2*

DISCHARGE LABS

___ 07:35AM BLOOD WBC-11.2* RBC-4.39 Hgb-11.2 Hct-34.6 
MCV-79* MCH-25.5* MCHC-32.4 RDW-14.6 RDWSD-41.5 Plt ___
___ 07:35AM BLOOD Glucose-83 UreaN-8 Creat-0.8 Na-143 K-4.2 
Cl-107 HCO3-22 AnGap-14
___ 07:35AM BLOOD Calcium-8.9 Phos-3.8 Mg-1.8

MICRO

___ 9:20 am URINE
                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 3:12 am BLOOD CULTURE
   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING/STUDIES

___ Imaging SECOND OPINION CT TORSO 
EXAMINATION:  SECOND OPINION CT TORSO 
  
INDICATION:  ___ year old woman with fevers, leuckotysosis, and R 
thigh/RLQ 
pain of unclear etiology.  Second opinion on CT abdomen/pelvis 
and extremity 
  
TECHNIQUE:  Exam was performed at ___.  Second read 
was performed 
at the request of the ordering physician.  MDCT axial images 
were acquired 
through the abdomen following intravenous contrast.  Images of 
the bilateral 
lower extremities was also obtained to level just below the 
knees. 
Oral contrast was not administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:   DLP: ___ MGy-cm 
  
COMPARISON:  None. 
  
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits.  
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions. There is no evidence of 
intrahepatic or 
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of focal renal lesions or hydronephrosis.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout. The 
colon and 
rectum are within normal limits. The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The uterus and adnexae are within normal 
limits. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease 
is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
LOWER EXTREMITIES/SOFT TISSUES: The abdominal and pelvic wall is 
within normal 
limits.  Soft tissues of the bilateral thighs are unremarkable.  
No focal 
collection nor other abnormality. 

IMPRESSION:    
No acute abdominopelvic etiology to account for patient's 
symptoms.  
Unremarkable CT of the thighs bilaterally. 

___ Imaging UNILAT LOWER EXT VEINS  
 
No evidence of deep venous thrombosis in the right lower 
extremity veins. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with history of PCOS, GERD, 
who initially presented with severe RLQ/R thigh pain, found to 
have fever and leukocytosis and expanding skin erythema of RLE 
with concern for SSTI and cellulitis. Was initially started on 
broad spectrum antibiotics Vancomycin and Zosyn. Was narrowed to 
cefazolin given thought to have had cellulitis with lymphangitic 
spread. Was then de-escalated to PO kelfex with plan for 7 day 
course (___). 

ACUTE ISSUES:
=============
#Cellulitis - Patient initially presented with fever to 102, WBC 
19.2, and R thigh pain for one day duration which progressed to 
R sided abdominal pain. CT RLE and A/P at outside hospital did 
not show any evidence of gas otherwise with no acute process. 
Here was started on broad spectrum antibiotics Vancomycin and 
Zosyn in the ED given concern for SSTI and possible 
intra-abdominal process. Given reassuring CT A/P findings with 
no evidence of intra-abdominal infection Zosyn was subsequently 
discontinued. Had evidence of cellulitis with lymphangitic 
spread to proximal portion of right lower extremity. Was 
narrowed to cefazolin with clinical improvement on exam. She was 
subsequently narrowed to PO kelfex with plan for 7 day course 
(___) prior to discharge. 

CHRONIC/STABLE ISSUES
=====================
#GERD - Continue home PPI omeprazole 20mg PO QD 

TRANSITIONAL ISSUES
=====================
Discharge WBC 11.2 

[ ] NEW/CHANGED MEDICATION CHANGES:
- Started cephalexin 500 mg PO/NG Q6H 

[ ] Planned ___ephalexin through ___
[ ] Patient initially scheduled to see new PCP at ___. 
___ on ___. Patient instructed to call to schedule 
new appointment with 7 days after discharge

#CODE: Full 
#CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*28 Capsule Refills:*0 
2.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
==============
Cellulitis
Leukocytosis
Chest pain
Anxiety

Secondary diagnoses:
=================
Gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because to that you were 
having leg pain and a rash, and were found to have a skin 
infection.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were given antibiotics to treat your skin infection.
– You were given pain medication and improved significantly 
before discharge.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please continue to take all of your medications and follow-up 
with your appointments as listed below especially your 
cephalexin.
- Call your PCP or return to the Emergency Department if you 
experience worsening fevers, chills, redness or pain in your leg 


We wish you the best!  

Sincerely,  

Your ___ Care Team  

 
Followup Instructions:
___